US04555263
4-Chloro-3-nitrobenzaldehyde (25.0 g) was added to a solution of sodium n-butylthiolate (1 equiv; prepared by addition of n-butylthiol to an equimolar amount of sodium dissolved in absolute alcohol) in absolute alcohol (300 ml) and the mixture was heated under reflux for 4 hr. On cooling, the mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography over silica gel with dichloromethane elution to give 3-nitro-4-(n-butylthio)benzaldehyde as yellow crystals, mp 93° C. Pmr spectrum (CDCl3 ; δ in ppm): 0.99 (3H, t); 1.66 (4H, m); 3.04 (2H, t); 7.56 (1H, d); 8.05 (1H, dofd); 8.69 (1H, d); 10.00 (1H, s).

reactant | 4-Chloro-3-nitrobenzaldehyde | 25.0 g | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | n-butylthiol | CCCCS | C4H10S
reactant | sodium | [Na] | Na
product | 3-nitro-4-(n-butylthio)benzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1SCCCC | C11H13NO3S
